US04652457
A solution of t-butyl bromide in ether is added slowly to magnesium stirrings until the Grignard reagent begins to form. The remainder of the alkyl bromide is then added and the mixture is stirred until all the magnesium dissolves. At 0° C., a solution of 2,2-dimethylpropionaldehyde is added and the resulting product is quenched with 1M HCl and extracted with ether and the solvent is evaporated to afford di-t-butylmethyl alcohol.

reactant | t-butyl bromide | C(C)(C)(C)Br | C4H9Br
reactant | magnesium | [Mg] | Mg
reactant | 2,2-dimethylpropionaldehyde | CC(C=O)(C)C | C5H10O
solvent | ether | CCOCC | C4H10O
product | di-t-butylmethyl alcohol | C(C)(C)(C)C(C(C)(C)C)O | C9H20O
